data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_50244_0,[C:1](/[N:7]=[C:5](/[C:6](=[C:4]([C:2]([H:13])([H:15])[H:16])[C:3]([H:14])([H:17])[H:18])[H:9])[H:8])([H:10])([H:11])[H:12]>>[C:1]([N:7]1[C:4]([C:2]([H:13])([H:15])[H:16])([C:3]([H:14])([H:17])[H:18])[C:6]([H:9])=[C:5]1[H:8])([H:10])([H:11])[H:12],48.62497500000728
MR_313428_1,[C:1](/[N:8]=[C:5]([C:3]([H:17])([H:18])[H:19])/[C:6](=[C:4](/[C:2]([H:14])([H:15])[H:16])[O:7][H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:8]1[C@@:4]([C:2]([H:14])([H:15])[H:16])([O:7][H:9])[C:6]([H:10])=[C:5]1[C:3]([H:17])([H:18])[H:19])([H:11])([H:12])[H:13],39.84060250003509
MR_68933_0,[C:1]([O:7][N:4]([C:2]([H:14])([H:15])[H:16])/[C:5]([C:3]([H:17])([H:18])[H:19])=[N:8]/[N:6]([H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([O:7][N:8](/[C:5]([C:3]([H:17])([H:18])[H:19])=[N:4]/[C:2]([H:14])([H:15])[H:16])[N:6]([H:9])[H:10])([H:11])([H:12])[H:13],63.50927499998775
MR_97008_0,[C:1]([C:3]([C:2]([H:16])([H:17])[H:18])=[O:8])(/[C:4]([N:5]([H:9])[H:10])=[C:7](/[N:6]([H:11])[H:12])[H:15])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[C:4]([C:3]([C:2]([H:16])([H:17])[H:18])=[O:8])([N:5]([H:9])[H:10])[C:7]1([N:6]([H:11])[H:12])[H:15],66.82498499999866
MR_381573_1,[C:1](/[C:3](=[N:5]/[N:2]([H:7])[H:8])[H:10])(/[C:4](=[N:6]\[H:9])[H:13])([H:11])[H:12]>>[C:1](=[C:3]([N:5]([N:2]([H:7])[H:8])/[C:4](=[N:6]\[H:9])[H:13])[H:10])([H:11])[H:12],67.07347500001333
MR_594892_0,[C:1]12([C:3]([H:11])([H:12])[H:13])[C:2]([C:4]([H:14])([H:15])[H:16])([C:6]([H:10])=[C:5]([H:9])[O:8]1)[O:7]2>>[C:1]12([C:3]([H:11])([H:12])[H:13])[C:5]([H:9])([C:6]([H:10])=[C:2]([C:4]([H:14])([H:15])[H:16])[O:7]1)[O:8]2,43.83150250001776
MR_478656_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])([C:4]([H:20])([H:21])[H:22])[C:6]1([N:8]([H:11])[H:12])[C:9]([H:13])=[C:7]([C:5]([H:23])([H:24])[H:25])[O:10]1>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])([C:4]([H:20])([H:21])[H:22])/[C:6]([N:8]([H:11])[H:12])=[C:9](\[C:7]([C:5]([H:23])([H:24])[H:25])=[O:10])[H:13],3.77629499998946
MR_557361_1,[C:1]([N:3]([O:7]/[C:4](=[C:5](\[C:2]([H:16])([H:17])[H:18])[N:6]([H:11])[H:12])[O:8][H:9])[H:10])([H:13])([H:14])[H:15]>>[C:1]([N:3]1[C:4]([C:5]([C:2]([H:16])([H:17])[H:18])([N:6]([H:11])[H:12])[H:10])([O:8][H:9])[O:7]1)([H:13])([H:14])[H:15],56.03198499999706
MR_356122_0,[C:1]([N:2]([H:9])[H:10])(=[C:4](\[O:6][H:8])[H:13])/[N:7]=[C:5](\[N:3]([H:11])[H:12])[H:14]>>[C:1]1([N:2]([H:9])[H:10])=[N:7][C:5]([N:3]([H:11])[H:12])([H:14])[C:4]1([O:6][H:8])[H:13],43.29059749995665
MR_84392_2,[C:1]([N:2]([N:3]([H:8])[H:9])[O:5][H:7])(/[C:4](=[N:6]/[H:10])[H:13])([H:11])[H:12]>>[C:1](/[N:2]=[N:3]/[H:8])([C:4]([O:5][H:7])([N:6]([H:9])[H:10])[H:13])([H:11])[H:12],27.90241499999993
MR_517983_0,[C:1]([N:2]([C:4](=[O:7])[H:9])[O:5][C:3](=[O:6])[H:8])([H:10])([H:11])[H:12]>>[C:1]([N:2]([C:3](=[O:6])[H:8])[O:5][C:4](=[O:7])[H:9])([H:10])([H:11])[H:12],40.91802000002573
MR_99162_0,[C:1]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:7]([C:2](=[O:8])[H:11])([C:6]([H:21])([H:22])[H:23])[O:9][H:10]>>[C:1]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:7]1([C:6]([H:21])([H:22])[H:23])[C:2]([O:8][H:10])([H:11])[O:9]1,55.54755499997171
MR_241070_0,[C:1]([C:4]([N:3]([O:7][C:5]([C:2]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])[H:9])=[O:8])([H:10])([H:11])[H:12]>>[C:1]([C:4]([C:6]([C@@:5]1([C:2]([H:13])([H:14])[H:15])[N:3]([H:9])[O:7]1)([H:16])[H:17])=[O:8])([H:10])([H:11])[H:12],70.75815499998441
MR_105057_0,[C:1](/[C:3]([N:2](/[C:5](=[C:4](\[O:6][H:8])[H:11])[H:12])[H:9])=[N:7]\[H:10])([H:13])([H:14])[H:15]>>[C:1]([C:3]1([N:7]([H:8])[H:10])[N:2]([H:9])[C:5]1([C:4](=[O:6])[H:11])[H:12])([H:13])([H:14])[H:15],25.57250749999696
MR_694838_0,[N:1]([C:2](=[C:6]([H:14])[H:15])[O:9][H:10])([C:3]([C:4]([N:5]([H:12])[H:13])=[C:8]([H:18])[H:19])=[C:7]([H:16])[H:17])[H:11]>>[N:1]([C:3]([C:2](=[C:6]([H:14])[H:15])[O:9][H:10])=[C:7]([H:16])[H:17])([C:4]([N:5]([H:12])[H:13])=[C:8]([H:18])[H:19])[H:11],2.5112550000088163
MR_186612_0,[C:1](/[C:2](=[C:5](/[C:3]([N:4]([H:9])[H:10])=[C:6]([H:15])[H:16])[H:11])[O:7][H:8])([H:12])([H:13])[H:14]>>[C:1]([C:2]1([O:7][H:8])[C:5]([H:11])=[C:3]([N:4]([H:9])[H:10])[C:6]1([H:15])[H:16])([H:12])([H:13])[H:14],46.48206250003156
MR_631893_1,[C:1]([C:2]([C:4]([H:18])([H:19])[H:20])([N:6]([H:13])[H:14])[H:10])([N:5]([H:11])[H:12])([O:7][C:3]([H:15])([H:16])[H:17])[O:8][H:9]>>[C:1]([C:2]([C:4]([H:18])([H:19])[H:20])([O:7][C:3]([H:15])([H:16])[H:17])[H:10])([N:5]([H:11])[H:12])([N:6]([H:13])[H:14])[O:8][H:9],44.10069999998015
MR_93677_2,[C:1]([O:6][N:3](/[C:4](=[C:5](/[C:2]([H:14])([H:15])[H:16])[H:10])[O:7][H:8])[H:9])([H:11])([H:12])[H:13]>>[C:1]([O:6][C:5]([C:2]([H:14])([H:15])[H:16])(/[C:4](=[N:3]\[H:9])[O:7][H:8])[H:10])([H:11])([H:12])[H:13],40.311855000022376
